US06133258
The reaction procedure of Example 11 was followed except that 900 mg (2.69 mmol) of 2-(4-bromoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 24 mg of lithium hydride and 503 mg of propyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 811 mg of 2-[(4-bromophenyl)imino]-2,3-dihydro-3-propyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one (recrystallized from a mixture of ether and hexane) as a low polarity substance and 103 mg of 2-[N-(4-bromophenyl)-N-propylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (recrystallized from ether) as a high polarity substance.

reactant | 2-(4-bromoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.69 mmol, 900 mg | BrC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8BrN3OS
reactant | lithium hydride | 24 mg | [H-].[Li+]
reactant | propyl iodide | 503 mg | C(CC)I | C3H7I
product | 2-[(4-bromophenyl)imino]-2,3-dihydro-3-propyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 811 mg | BrC1=CC=C(C=C1)N=C1SC2=C(C(N1CCC)=O)C=CC=N2 | C16H14BrN3OS
